US08168634B2
2-Iodo-4-(methylsulfonyl)aniline
To a stirred suspension of 4-(methylsulfonyl)aniline hydrochloride (2.0 g, 9.7 mmol) in EtOH (40 mL) was added KOtBu (1.3 g, 11.4 mmol). The reaction mixture was stirred for 15 minutes, then a slurry of silver sulfate (3.3 g, 10.6 mmol) and iodine (2.4 g, 9.6 mmol) in EtOH (100 mL) was added. The reaction mixture was stirred at 50° C. for 3 h, then cooled to r.t., filtered through Celite®, and the filtrate concentrated in vacuo. Recrystallisation from EtOH gave the title compound (1.9 g, 66%) as an off white solid. LCMS (ES+) 319.8 (M+Na)+, RT 2.77 minutes (Method 4).

reactant | 4-(methylsulfonyl)aniline hydrochloride | 9.7 mmol, 2.0 g | Cl.CS(=O)(=O)C1=CC=C(N)C=C1
reactant | KOtBu | 11.4 mmol, 1.3 g | CC(C)(C)[O-].[K+]
reactant | iodine | 9.6 mmol, 2.4 g | II | I2
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | silver sulfate | 10.6 mmol, 3.3 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 2-Iodo-4-(methylsulfonyl)aniline | 1.9 g, 66% | IC1=C(N)C=CC(=C1)S(=O)(=O)C | C7H8INO2S
